US06399627B1
To a mixture prepared by adding copper cyanide (940 mg, 10.5 mmol) to a cooled solution of lithium bromide (1.82 g 21 mmol) in tetrahydrofurn at −25° C. under argon atmosphere was added a solution of 0.5M 3-cyanophenyl zinc iodide (20 ml, 10 mmol) in tetrahydrofuran. The reaction mixture was allowed to warm to 0° C. for 30 minutes then cooled down to −25° C. to which neat isobutyryl chloride (1.06 ml, 10.1 mmol) was added all at once. The reaction was kept at −25° C. for 30 minutes then quenched by adding 20 ml of a saturated solution of ammonium chloride. The mixture was extracted with 2×25 ml diethyl ether. The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo to an oil. The crude oil was flushed through a silica plug using 10% ethyl acetate in hexane to give 3-(2-methylpropanoyl)benzenecarbonitrile (1.25 g, 72%) as a clear oil. H1NMR (CDCl3): 2.2-2.25 (d, H); 4.499-4.568 (m, H); 8.614-8.655 (m, 2H); 8.831-8.857 (m, H); 9.172-9.238 (m, H). ES-M (M+H+): 174.1.

reactant | copper cyanide | 10.5 mmol, 940 mg | [Cu](C#N)C#N
reactant | lithium bromide | 21 mmol, 1.82 g | [Br-].[Li+]
reactant | 3-cyanophenyl zinc iodide | 10 mmol, 0.5M, 20 ml | [I-].C(#N)C=1C=C(C=CC1)[Zn+]
reactant | isobutyryl chloride | 10.1 mmol, 1.06 ml | C(C(C)C)(=O)Cl | C4H7ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-methylpropanoyl)benzenecarbonitrile | 1.25 g, 72% | CC(C(=O)C=1C=C(C=CC1)C#N)C | C11H11NO
